US04990508
In 25 ml of N,N-dimethylformamide was dissolved 3.07 g of ethyl 2-[4-(1-benzyloxycarbonylaminocyclopropyl)-2,3,5-trifluorobenzoyl]-3-(2-hydroxy-1-methylethylamino)acrylate. To the resulting solution was added 519 mg of 60% sodium hydride with ice-cooling. The resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was added to a mixture of 50 ml of ethyl acetate and 50 ml of water. The resulting mixture was adjusted to pH 1 with 2N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: toluene/ethyl acetate=1/1) to obtain 760 mg (yield: 26.9%) of ethyl 10-(1-benzyloxycarbonylaminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate.

reactant | ethyl 2-[4-(1-benzyloxycarbonylaminocyclopropyl)-2,3,5-trifluorobenzoyl]-3-(2-hydroxy-1-methylethylamino)acrylate | 3.07 g | C(C1=CC=CC=C1)OC(=O)NC1(CC1)C1=C(C(=C(C(=O)C(C(=O)OCC)=CNC(CO)C)C=C1F)F)F | C26H27F3N2O6
reactant | sodium hydride | 519 mg | [H-].[Na+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | ethyl 10-(1-benzyloxycarbonylaminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 760 mg, yield: 26.9% | C(C1=CC=CC=C1)OC(=O)NC1(CC1)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)OCC)F | C26H25FN2O6
